US07018988B2
Intermediate 7: (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid
A solution was made containing (2S)-1-(tert-butoxycarbonyl)-4-oxo-2-pyrrolidinecarboxylic acid (5.0 g, 21 mmol) and O-methylhydroxylamine hydrochloride (2.7 g, 32.8 mmol) in chloroform (100 ml) containing triethyl-amine (5.5 g, 55 mmol). The reaction mixture was then stirred at ambient temperature over-night, prior to removal of solvent. The resultant crude reaction mixture was dissolved in ethyl acetate (150 ml) and washed rapidly with 1N HCl (40 ml). The acidic layer was then extracted with ethyl acetate (3×20 ml) and the combined organic layers washed with brine before drying over magnesiom sulfate, filtering and removal of solvent in vacuo. The desired product (5.3 g, 94%) was isolated as a pale yellow oil.

reactant | (2S)-1-(tert-butoxycarbonyl)-4-oxo-2-pyrrolidinecarboxylic acid | 21 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=O)C(=O)O | C10H15NO5
reactant | O-methylhydroxylamine hydrochloride | 32.8 mmol, 2.7 g | Cl.CON
reactant | triethyl-amine | 55 mmol, 5.5 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | 5.3 g, 94% | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
